US07795453B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-[({[3-trifluoromethoxyphenyl]amino}-carbonyl)amino]-1-benzothiophene-2-carboxamide hydrochloride
A solution of 40 mg (0.11 mmol) of 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride in 2 ml of THF and 0.2 ml of DMF is mixed with 29.8 μl (0.21 mmol) of triethylamine and 43.4 mg (0.21 mmol) of 3-trifluoromethoxyphenyl isocyanate. After 18 h at room temperature, the product is purified by preparative HPLC. The concentrated product fraction is dissolved in a mixture of methanol and 1 N hydrochloric acid (2:1), again concentrated and dried under high vacuum. 8.5 mg (14.7% of theory) of the title compound are obtained.

reactant | 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride | 0.11 mmol, 40 mg | Cl.Cl.NC1=CC2=C(C=C(S2)C(=O)N[C@H]2CN3CCC2CC3)C=C1
reactant | triethylamine | 0.21 mmol, 29.8 μl | C(C)N(CC)CC | C6H15N
reactant | 3-trifluoromethoxyphenyl isocyanate | 0.21 mmol, 43.4 mg | FC(OC=1C=C(C=CC1)N=C=O)(F)F | C8H4F3NO2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | DMF | 0.2 ml | CN(C)C=O | C3H7NO
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-[({[3-trifluoromethoxyphenyl]amino}-carbonyl)amino]-1-benzothiophene-2-carboxamide hydrochloride | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=CC(=C1)NC(=O)NC1=CC(=CC=C1)OC(F)(F)F | InChI=1S/C24H23F3N4O3S.ClH/c25-24(26,27)34-18-3-1-2-16(11-18)28-23(33)29-17-5-4-15-10-21(35-20(15)12-17)22(32)30-19-13-31-8-6-14(19)7-9-31;/h1-5,10-12,14,19H,6-9,13H2,(H,30,32)(H2,28,29,33);1H/t19-;/m0./s1
